US08912208B2
B. {4-[4-(5-Amino-3-methoxy-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester
To a solution of {4-[4-(3-Methoxy-5-nitro-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (0.14 g) in 10 Ml EtOAc was added 30 mg Pd/C. The reaction vessel was purged with hydrogen, then stirred overnight under a balloon atmosphere of hydrogen. Filtration through Celite followed by removal of solvent in vacuo afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 0.94-1.02 (m, 1 H) 1.01 (s, 3 H) 1.31 (td, J=12.57, 9.98 Hz, 2 H) 1.64 (d, J=11.37 Hz, 4 H) 2.09 (d, J=6.82 Hz, 2 H) 3.44 (s, 3 H) 3.59 (s, 3 H) 5.25 (s, 2 H) 6.52 (d, J=2.02 Hz, 1 H) 7.02 (d, J=8.34 Hz, 2 H).7.47 (d, J=2.02 Hz, 1 H) 7.54 (d, J=8.34 Hz, 2 H); (M+H)+ 355.1.

reactant | {4-[4-(3-Methoxy-5-nitro-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 0.14 g | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1OC)[N+](=O)[O-])=O | C21H24N2O5
catalyst | Pd/C | 30 mg | [Pd] | Pd
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4-[4-(5-Amino-3-methoxy-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1OC)N)=O | C21H26N2O3
